US05321114
A. Preparation of Copolyestercarbonate with Sebacic Acid and Step Wise pH Process
A 2000 mL five neck Morton flask equipped with a bottom outlet was fitted with a mechanical stirrer, a pH probe, an aqueous sodium hydroxyde (50%) inlet tube, a Claisen adapter to which dry ice condenser was attached, and a gas inlet tube. The flask was charged with bisphenol A (71 g, 311 retool), triethylamine (0.9 mL), p-cumylphenol (2.0 g, 9 retool), methylene chloride (220 mL), and the disodium salt solution of DDDA described above. Then phosgene was introduced at a rate of 2 g/rain, while the pH was maintained at 8 by addition of caustic for 10 minutes; the pH was then raised and maintained at around 10.5 while phosgene addition continued for 10 additional minutes. The total amount of phosgene added was 40 g (400 mmol). The pH was adjusted to 11-11.5 and the organic phase was separated from the brine layer and washed with 2% hydrochloric acid (3×300 mL), and with deionized water (5×300 mL).

reactant | dry ice | C(=O)=O | CO2
reactant | bisphenol A | 71 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | p-cumylphenol | 2.0 g | C(C)(C)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C15H16O
reactant | disodium | [Na][Na] | 2Na
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | 220 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.9 mL | C(C)N(CC)CC | C6H15N
product | Sebacic Acid | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
